US05886191
(4-Benzylpiperidinecarbonyl)methylamine was made by treatment of (4-benzylpiperidinecarbonyl)methylene chloride with NaN3 in aqueous acetone, followed by hydrogenation with 5% Pd/C. Reaction of (4-benzylpiperidinecarbonyl)methylamine (8.6 mmol) with 4-chloro-3-nitro-benzonitrile (10 mmol) in DMF (10 mL) in the presence of NaHCO3 (10 mmol) at 100° C. for 16 hours gave 4-[(4-benzylpiperidinecarbonyl)methyl]amino-3-nitrobenzonitrile (1.6 g, 49.2% of yield), which was then hydrogenated in MeOH in the presence of 5% of Pd/C (10% w/w) to produce 1-(4-benzylpiperidinecarbonyl)methyl-6-cyanobenzimidazole (1.3 g, 90% of yield). 1-(4-Benzylpiperidinecarbonyl)methyl-6-cyanobenzimidazole (0.57 mmol) was then carried through the Pinner reaction, followed by purification on TLC plates with 10% MeOH in CH2Cl2, and further purification by HPLC to give the title compound: mp: 68°-70° C.; 1H NMR (CD3OD) δ 8.52 (s, 1H), 8.20 (s, 1H), 7.75 (s, 2H), 7.29-7.24 (m, 2H), 7.18-7.16 (m, 3H), 5.43 (dd, J=17.2 Hz, J=24.5 Hz, 2H), 4.40 (d, J=12.8 Hz, 1H), 4.00 (d, J=12.8 Hz, 1H), 3.18 (t, J=12.8 Hz, 1H), 2.68 (t, J=12.8 Hz, 1H), 2.59 (d, J=7.00 Hz, 2H), 1.87-1.78 (m, 2H), 1.72-1.68 (m, 1H, 1.42-1.35 (m, 1H), 1.22-1.15 (m, 1H); 13C NMR (CD3OD) δ 168.76, 166.06, 148.73, 141.23, 139.50, 130.17, 129.45, 129.33, 127.35, 127.11, 124.04, 120.40, 113.19, 47.38, 46.36, 43.93, 43.73, 39.15, 33.35, 32.73; MS: 188.8 (M+2H)2+ ; HRMS: 376.2130 (obs.), 376.2137 (calcd.); Anal.: (C22H25N5O1 +1.85TFA+0.18HCl+0.5H2O).

reactant | (4-Benzylpiperidinecarbonyl)methylamine | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)CN | C14H20N2O
reactant | (4-benzylpiperidinecarbonyl)methylene chloride | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C(Cl)Cl | C14H17Cl2NO
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | (4-benzylpiperidinecarbonyl)methylamine | 8.6 mmol | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)CN | C14H20N2O
reactant | 4-chloro-3-nitro-benzonitrile | 10 mmol | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | NaHCO3 | 10 mmol | C(=O)(O)[O-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | 4-[(4-benzylpiperidinecarbonyl)methyl]amino-3-nitrobenzonitrile | 1.6 g, 49.2% | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)CNC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C21H22N4O3
